US06207686B1
A mixture of Nα-[3-(1-triphenylmethylimidazol-4-yl)-2-(3,4-methylenedioxyphenyl)propionyl]-L-tryptophan benzyl ester (290 mg) in 80% acetic acid-water (5 ml) was stirred at 50° C. for 5 hours. The resulting mixture was cooled to ambient temperature and the solution was diluted with water. Carbinol was removed by filtration and the filtrate was neutralized with saturated sodium hydroxide aqueous solution, and then the aqueous layer was extracted with ethyl acetate. Drying, filtering and removal of the solvents afforded Nα-[3-(imidazol-4-yl)-2-(3,4-methylenedioxyphenyl)propionyl]-L-tryptophan benzyl ester (180 mg) as a yellow powder.

reactant | Nα-[3-(1-triphenylmethylimidazol-4-yl)-2-(3,4-methylenedioxyphenyl)propionyl]-L-tryptophan benzyl ester | 290 mg | C(C1=CC=CC=C1)OC([C@@H](NC(C(CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC2=C(C=C1)OCO2)=O)CC2=CNC1=CC=CC=C21)=O | C50H42N4O5
solvent | acetic acid water | 5 ml | C(C)(=O)O.O
solvent | water | O | H2O
product | Nα-[3-(imidazol-4-yl)-2-(3,4-methylenedioxyphenyl)propionyl]-L-tryptophan benzyl ester | 180 mg | C(C1=CC=CC=C1)OC([C@@H](NC(C(CC=1N=CNC1)C1=CC2=C(C=C1)OCO2)=O)CC2=CNC1=CC=CC=C21)=O | C31H28N4O5
